Name:  ___            Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Motrin / valacyclovir / iodine / atorvastatin
 
Attending: ___
 
Chief Complaint:
chest pain
dyspnea
 
Major Surgical or Invasive Procedure:
Cardiac Catherization ___

 
History of Present Illness:
Dr. ___ is a ___ female, former physician, with ___
history of HLD, hypothyroidism, ___ syndrome, reactive 
airway
disease, trigeminal neuralgia, and a strong family history of 
CAD
who was called in from ___ to the ED last night for chest
pain. 

The patient established care with cardiology in ___ due to
concerns about strong family history of CAD and personal history
of HLD, though she herself had not had any cardiac symptoms. She
did not tolerate atorvastatin in the past (significant mood
changes), but follows a strict low-cholesterol diet. She was
prescribed Rosuvastatin 10 mg by her cardiologist. She took
Rosuvastatin 5 mg daily for several days after the visit, and
restarted it again in the last week. 

At baseline, she exercised daily with no chest pain or shortness
of breath. Over the past month, her exercise tolerance has
decreased.  She continues to walk 3 to 6 miles per day, but her
pace is noticeably slower.  She has also started experiencing a
dry cough, with intermittent dyspnea on exertion that started
early ___. No associated diaphoresis, dizziness or
palpitations. She tried an Atrovent inhaler which she has for
past post-infectious reactive airway disease, which did not
improve her symptoms. Twice she has woken up at night with air
hunger, which has never happened before. She sleeps flat, and
reports no orthopnea or lower extremity edema. She reports no
recent illnesses, including no viral URIs, and no sick contacts. 


She has also been experiencing intermittent chest discomfort
during this time. It is localized to the left chest with
occasional radiation to the left shoulder or the left upper arm.
Largely, the pain is dull and aching, with sharp twinges
interspersed. Initially the episodes lasted several seconds, now
they are lasting on the order of minutes. The episodes have
occurred both at rest and on exertion. No positional component.
During these episodes of discomfort she feels nauseous but has
never vomited. The pain was not relieved by an antacid.
Occasionally, it has been triggered by Valsalva and deep
exhalation. 

On ___ she presented to ___ after 1 week of
worsening chest discomfort that awoke her from sleep. Per her
report, at the evaluation in that hospital, the EKG was normal,
troponins within normal limits, and she was discharged home. She
then presented to her PCP ___ for a post-hospitalization office
visit.  Per review of the PCP note, the patient reported daily,
intermittent chest pain that is not severe with intermittent
radiation.  The PCP was suspicious for cardiac etiology and sent
her for a stress test on ___. The stress test showed normal
exercise capacity however the test was stopped due to fatigue,
chest discomfort/pain, and exercise-induced right bundle branch
block.  There were no ST changes. The right bundle branch block
developed at peak and resolved by 33 seconds recovery.  The test
was negative for ischemia by EKG criteria though stress echo was
recommended given exertional chest pain.

After the stress test, the patient felt worsening dyspnea,
nausea, fatigue, and chest discomfort, with one episode of pain
radiating down her arm. She called her PCP and her PCP sent her
to the ED.

The ___ medical history is significant for recurrent
herpetic trigeminal viral illnesses, with severe hepatic
involvement for which she has been hospitalized at ___, with
intermittent flares, associated with abnormal LFTs. 
 
Past Medical History:
PAST MEDICAL HISTORY  
====================  
1. CARDIAC RISK FACTORS  
- Diabetes:  last A1C?
- Hypertension 
- Dyslipidemia - on statin 

2. CARDIAC HISTORY  
- CABG: None  
- PERCUTANEOUS CORONARY INTERVENTIONS: None  
- PACING/ICD: None  

3. OTHER PAST MEDICAL HISTORY  
- mild intermittent asthma
- ___ syndrome
- vitamin D deficiency
- Hypothyroidism
- Trigeminal neuralgia, postherpetic
 
Social History:
___
Family History:
Notable for CAD on her father's side: Her father had a CABG ___
in his ___, her brother has high cholesterol, and a cousin had
stents placed. 
 
Physical Exam:
ADMISSION PHYSICAL EXAMINATION:  
=====================  
VITALS:  97.3 63 133/69  18 97% RA 
GENERAL: Well-developed, well-nourished. NAD. Mood, tearful
HEENT: NCAT. Sclera anicteric. PERRL, EOMI. Conjunctiva pink, no
pallor or cyanosis of the oral mucosa. No xanthelasma.  
NECK: Supple , JVP not elevated
CARDIAC: rrr, no m/r/g.  
LUNGS: cta bilaterally  
ABDOMEN: Soft, NTND. No HSM or tenderness.  
EXTREMITIES: No c/c/e. No femoral bruits.  
SKIN: No stasis dermatitis, ulcers, scars, or xanthomas.  
PULSES: Distal pulses palpable and symmetric  

DISCHARGE
++++++++++++++++
VITALS:  ___ 0722 Temp: 98.0 PO BP: 95/58 L Lying HR: 54 
RR:
17 O2 sat: 98% O2 delivery: Ra 
___ Total Intake: 658ml PO Amt: 120ml IV Amt Infused: 538ml 

___ Total Output: 400ml Urine Amt: 400ml 

GENERAL: Well-developed, well-nourished. NAD. Mood, tearful
HEENT: NCAT. Sclera anicteric. PERRL, EOMI. Conjunctiva pink, no
pallor or cyanosis of the oral mucosa. No xanthelasma.  
NECK: Supple , JVP not elevated
CARDIAC: rrr, no m/r/g.  
LUNGS: cta bilaterally  
ABDOMEN: Soft, NTND. No HSM or tenderness.  
SKIN: No stasis dermatitis, ulcers, scars, or xanthomas.  
PULSES: Distal pulses palpable and symmetric
 
Pertinent Results:
ADMISSION LABS
===============
___ 09:45PM BLOOD WBC-5.2 RBC-4.70 Hgb-13.8 Hct-41.5 MCV-88 
MCH-29.4 MCHC-33.3 RDW-12.7 RDWSD-41.1 Plt ___
___ 09:45PM BLOOD Neuts-70.3 ___ Monos-7.5 Eos-1.9 
Baso-1.0 Im ___ AbsNeut-3.68 AbsLymp-1.00* AbsMono-0.39 
AbsEos-0.10 AbsBaso-0.05
___ 09:45PM BLOOD Plt ___
___ 03:29AM BLOOD ___ PTT-36.2 ___
___ 04:14AM BLOOD D-Dimer-<215
___ 09:45PM BLOOD Glucose-100 UreaN-15 Creat-0.7 Na-142 
K-4.6 Cl-101 HCO3-29 AnGap-12
___ 09:45PM BLOOD cTropnT-<0.01
___ 04:14AM BLOOD cTropnT-<0.01
___ 07:03AM BLOOD ALT-17 AST-17 AlkPhos-91 TotBili-1.2 
DirBili-<0.2 IndBili-1.2
___ 09:45PM BLOOD Calcium-9.9 Phos-3.8 Mg-2.4
___ 07:03AM BLOOD Triglyc-88 HDL-52 CHOL/HD-3.9 
LDLcalc-135*

DISCHARGE LABS
=================

___ 04:14AM BLOOD
___ 07:03AM BLOOD Calcium-9.3 Phos-3.0 Mg-2.0 Cholest-205*
___ 07:03AM BLOOD ALT-17 AST-17 AlkPhos-91 TotBili-1.2 
DirBili-<0.2 IndBili-1.2
___ 07:03AM BLOOD Glucose-108* UreaN-15 Creat-0.6 Na-139 
K-4.4 Cl-104 HCO3-24 AnGap-11
___ 07:03AM BLOOD Plt ___
___ 07:03AM BLOOD ___ PTT-31.7 ___
___ 07:03AM BLOOD WBC-5.7 RBC-4.06 Hgb-12.2 Hct-35.7 MCV-88 
MCH-30.0 MCHC-34.2 RDW-12.5 RDWSD-40.0 Plt ___

IMAGING
=========
+ CXR ___
  
IMPRESSION:  
  
No evidence of acute cardiopulmonary process. 

+ CATH ___
The left main, left anterior descending, circumflex and right 
coronary artery have no angiographically
significant coronary abnormalities. Right dominant system.

TTE ___
IMPRESSION: Normal left ventricular wall thickness, 
biventricular cavity sizes, and regional/
global biventricular systolic function. No valvular pathology or 
pathologic flow identified. Normal
estimated pulmonary artery systolic pressure.
MEASUREMENTS:
 
Brief Hospital Course:
Summary
=======
Dr. ___ is a ___ female with a history of HLD, 
hypothyroidism, ___ syndrome, reactive airway disease, 
trigeminal neuralgia, and a strong family history of CAD who 
presented to the ED at encouragement of her PCP due to worsening 
dyspnea, nausea, fatigue, and chest discomfort after an exercise 
stress test ___ which was ordered because of a 1 month 
history of progressive dyspnea on exertion/exercise intolerance 
and progressive exertional and non-exertional chest pain. During 
this admission she underwent evaluation for unstable angina and 
was found to have no angiographic coronary artery abnormalities 
and a normal echocardiogram.

Transitional Issues:
====================
[] Patient should undergo further workup of her dyspnea on 
exertion
[] Patient should continue on rosuvastatin 5mg qhs given her 
symptoms and hx of HLD as well as strong family hx. Consider if 
previous history of ___'s is associated with statin 
intolerance.

MEDICATION CHANGES:
[] ASA 81mg daily for primary prophylaxis was stopped in 
discussion with patient given low benefit for primary 
prophylaxis in women without atherosclerotic disease.

Acute Issues
============
# Dyspnea on exertion
# Unstable Angina
Patient presented with history concerning for ACS. 1 month 
history of progressive dyspnea on exertion/exercise intolerance 
and 1 month progressive exertional and non-exertional chest 
pain. She was refractory to atrovent inhaler and without recent 
viral URIs / sick contact. The chest pain initially lasted for 
seconds but progressively lasted on the order of minutes and it 
was dull and aching with occasional sharp twinges. She was 
evaluated by ___ ___ after 1 week of 
worsening chest discomfort awakening her from sleep, however ECG 
was non-ischemic and no troponin elevation. On PCP ___ 
___ she reported daily intermittent chest discomfort. She 
underwent stress test on ___ which showed normal exercise 
capacity but test stopped due to chest discomfort/pain, had 
exercise induced RBBB however there were no ST changes. Her PCP 
sent her in to the ED due to worsening dyspnea, nausea, fatigue, 
and chest discomfort after an exercise stress test ___.

She has never had a cath and last TTE was in ___ which was 
normal. During this hospitalization, her troponins were negative 
x2 with an unremarkable 12-lead ECG. Due to the severity of her 
symptoms and hx of HLD and strong family history she underwent a 
cardiac catheterization, for which she was pre-medicated with 
methylprednisolone 125mg IV x1. TSH was 0.74. There was no 
angiographic coronary artery abnormalities ruling out coronary 
artery disease, and she had an unremarkable echocardiogram which 
rules out cardiomyopathy, valvular pathology, aortic 
root/ascending aorta issues, or RV dysfunction. She was 
discharged home ___ with follow up with PCP and outpatient 
cardiologist for further workup of symptoms.

# ___ risk factors
# HLD
___ Lipid panel prior to this hospitalization: Total chol 
285, HDL 56, LDL 196.6, and Trig 162 (fasting). Patient with 
reported "mental status changes" atorvastatin in the past. She 
started rosuvastatin 10mg daily ___ and that stopped taking 
it a few days after visit Restarted taking 5mg rosuvastatin 
intermittently a week ago. This hospitalization on ___ her 
Total chol 205, HDL 52, LDL 135, and Trig 88 (fasting).
Her ___ ASCD risk is 2.4% using data from this admission. 
However given the severity of her symptoms, patient will stay on 
rosuvastatin 5mg qhs for the time being and follow up with her 
cardiologist / PCP.

Chronic Issues
==============
# Hypothyroidism 
Is not on any medication. Stopped taking levothyroxine in ___. 
TSH this admission was 1.2. Should be followed by her PCP

# ___ : mild intermittent
Doesn't use an inhaler regularly.

# Trigeminal neuralgia
Maintained on famciclovir 250 mg oral daily for suppression 
during admission. Uses TID if she feels an exacerbation. Was 
asymptomatic not requiring TID dosing.

# ___
Has history of abnormal LFTs secondary to Gilberts, c/b 
recurrent complicated viral infections. Her hepatic enzymes were 
within normal limits. Unclear if this will change her tolerance 
of statins.

==================================
# CONTACT: HCP: ___ 
Relationship to Patient: Husband
Contact: (cell) ___
Alternate HCP is the patient's brother.
# CODE STATUS: Full (confirmed)
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. famciclovir 250 mg oral TID 
2. Aspirin 81 mg PO DAILY 
3. Rosuvastatin Calcium 5 mg PO QPM 

 
Discharge Medications:
1.  famciclovir 250 mg oral TID  
2.  Rosuvastatin Calcium 5 mg PO QPM  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY
=======
Unstable Angina
Dyspnea on Exertion

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
================================================  
 DISCHARGE WORKSHEET TEMPLATE  
================================================  
Dear Dr. ___,  

___ was a pleasure taking care of you at the ___ 
___!

WHY WAS I IN THE HOSPITAL?  
==========================  
- You were admitted to the hospital because of chest discomfort 
as well as shortness of breath, particularly on exertion.
 
WHAT HAPPENED IN THE HOSPITAL?  
==============================  
-  You underwent a coronary angiogram which did not show 
occlusions in your coronary arteries.
-  You had an echocardiogram which showed no abnormalities.

WHAT SHOULD I DO WHEN I GO HOME?  
================================  
- Please follow up with your primary care doctor within 7 to 10 
days to further investigate your shortness of breath. You will 
need to call set up an appointment.
- Please follow up with your cardiologist within the next month.
- Please continue taking your medications as prescribed.

Thank you for allowing us to be involved in your care, we wish 
you all the best!  

Sincerely,
Your ___ Team  
 
Followup Instructions:
___